US07365174B2
In an amount of 25.5 g of 4-aminobutanol was dissolved in 255 ml of a mixed solvent of acetone/water (3:1). Under ice cooling, the mixture was added with 43.5 g of potassium carbonate, added dropwise with 27.6 ml of ethyl chloroformate over 13 minutes, and then stirred for 2 hours. The reaction mixture was added with 100 ml of water, and extracted with 100 ml of ethyl acetate, and then the organic layer was washed with saturated brine. The organic layer was dried over anhydrous magnesium sulfate, and then filtered. The filtrate was concentrated under reduced pressure to obtain 45.3 g of 4-ethoxycarbonylaminobutanol. Physicochemical Properties of this Compound

reactant | potassium carbonate | 43.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl chloroformate | 27.6 ml | ClC(=O)OCC | C3H5ClO2
reactant | water | 100 ml | O | H2O
reactant | 4-aminobutanol | 25.5 g | NCCCCO | C4H11NO
solvent | acetone water | CC(=O)C.O
product | 4-ethoxycarbonylaminobutanol | 45.3 g | C(C)OC(=O)NCCCCO | C7H15NO3
